US05298518
2-(4-Chloro-2-methoxyphenyl)-4,4-dimethyloxazoline
80 g of 2-amino-2-methyl 1-propanol was dissolved in 350 ml of methylene chloride, and the solution was cooled to -5° C. 4-Chloro-2-methoxybenzoyl chloride was dissolved in 180 ml of methylene chloride and then slowly dropwise added to the cooled solution. After the dropwise addition, the mixture was stirred at room temperature for 2 hr. The reaction mixture was filtered, and the crystal was washed with methylene chloride. Dilute hydrochloric acid was added to the filtrate and then subjected to phase separation to get an organic phase. The organic phase was dried over anhydrous magnesium sulfate and then concentrated. 120 ml of thionyl chloride was slowly dripwise added at room temperature to 106 g of the resultant oleaginous substance. The mixture was stirred for an additional 1 hr and then concentrated. Water was added to the concentrate for dissolution, and an aqueous sodium hydroxide solution was added to the solution to adjust the pH value to 11. Chloroform was added thereto, and the mixture was extracted, dried over anhydrous magnesium sulfate and then concentrated. The residue was purified by column chromatography (chloroform). The yield was 62.3 g.

reactant | 2-amino-2-methyl 1-propanol | 80 g | NC(CO)(C)C | C4H11NO
reactant | 4-Chloro-2-methoxybenzoyl chloride | ClC1=CC(=C(C(=O)Cl)C=C1)OC | C8H6Cl2O2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Chloro-2-methoxyphenyl)-4,4-dimethyloxazoline | ClC1=CC(=C(C=C1)C=1OCC(N1)(C)C)OC | C12H14ClNO2
